US07300931B2
Synthesis of 4-phenyl-2-fluorophenylacetic acid:
4-Bromo-2-fluoro-phenylacetic acid (0.25 gm, 1.1 mmole), phenylboronic acid (0.15 gm, 1.2 mmole) and 50% water wet 10% Palladium carbon (0.07 gm, 0.033 mmole Pd) were added to 10 ml of 5:1 water isopropanol mixture, then Na2CO3 (0.14 gm, 1.3 mmole) dissolved in 3 ml of water was added to the above mixture, the reaction was heated at 65-70° C. overnight, the reaction was cooled to room temperature, diluted with 20 ml of 70:15:1 i-PrOH/H2O/10% NaOH, filtered, the catalyst was washed with 20 ml×3 using the above mixture, the filtrate was acidified using 20% H2SO4, filtered and dried (0.2 gm, 83%) H1-NMR INOVA-500 (DMSO d6) δ 3.675 (s, 2H), 7.382-7.518 (m, 6H), 7.707 (d, J=7.5 Hz, 2H), 12.498 (s, 1H).

reactant | 4-Bromo-2-fluoro-phenylacetic acid | 1.1 mmole, 0.25 gm | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
reactant | phenylboronic acid | 1.2 mmole, 0.15 gm | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 1.3 mmole, 0.14 gm | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 3 ml | O | H2O
solvent | i-PrOH H2O | 20 ml | CC(C)O.O
solvent | NaOH | [OH-].[Na+]
solvent | water isopropanol | 10 ml | C(C)(C)O.O
solvent | water | 0.033 mmole, 0.07 gm | O | H2O
product | 4-phenyl-2-fluorophenylacetic acid | C1(=CC=CC=C1)C1=CC(=C(C=C1)CC(=O)O)F | C14H11FO2
